US05843957
Preparation of N-[1-butyl-4-{3-(2-hydroxyethoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a solution of N-[1-butyl-4-{3-(2-acetoxyethoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (196 mg, 0.33 mmol) in methanol (10 ml) was added potassium carbonate (11 mg), and the mixture was stirred at room temperature for 4 hours. To the mixture was added water, and the mixture was extracted with ethyl acetate. The extract was washed with water, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The residue was concentrated under reduced pressure, and crystallized from ether/hexane to give the title compound (145 mg, 0.26 mmol).

reactant | N-[1-butyl-4-{3-(2-acetoxyethoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.33 mmol, 196 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCCOC(C)=O)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C35H42N4O5
reactant | potassium carbonate | 11 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | N-[1-butyl-4-{3-(2-hydroxyethoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.26 mmol, 145 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCCO)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C33H40N4O4
